US09403807B2
Step A: Preparation of Methyl bromo(2-chloro-4-fluorophenyl)acetate (i-1a)
Methyl 2-chloro-4-fluorophenylacetate (3.15 g, 15.6 mmol), N-bromosuccinimide (2.77 g, 15.6 mmol) and AIBN (255 mg, 1.56 mmol) were suspended in benzene (50.0 mL) and degassed via N2 stream. The resulting mixture was heated to 80° C. for 12 h. After cooling to rt, the mixture was partially concentrated in vacuo and partitioned between ether and water. The layers were separated, and the organic layer was washed with water and brine. The organics were dried (MgSO4), filtered and concentrated in vacuo. The resulting crude oil was purified by by flash chromatography on silica gel (gradient elution; 0%-20% EtOAc/hexanes as eluent) to afford the title compound i-1a. 1HNMR (500 MHz, CDCl3): δ 7.82 (dd, 1H, J=6.0, 8.8 Hz), 7.17 (dd, 1H, J=2.6, 8.3 Hz), 7.08 (m, 1H), 5.88 (s, 1H), 3.84 (s, 3H).

reactant | Methyl 2-chloro-4-fluorophenylacetate | 15.6 mmol, 3.15 g | ClC1=C(C=CC(=C1)F)CC(=O)OC | C9H8ClFO2
reactant | N-bromosuccinimide | 15.6 mmol, 2.77 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 1.56 mmol, 255 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | benzene | 50.0 mL | C1=CC=CC=C1 | C6H6
product | Methyl bromo(2-chloro-4-fluorophenyl)acetate | BrC(C(=O)OC)C1=C(C=C(C=C1)F)Cl | C9H7BrClFO2
